US04933355
5-{1-[2-[3-(2,4-Difluorophenyl)ureido]-thiazol-4-yl]-1-ethoxycarbonvlmethylene)rhodanine-3-acetic acid hemihydrate
Following a procedure similar to that described in Example 1, the desired compound was prepared from 1.8 g of ethyl 2-[3-(2,4-difluorophenyl)ureido]thiazol-4-ylglyoxylate, 0.96 g of rhodanine-3-acetic acid, 0.5 g of ammonium chloride, 0.5 ml of 28% v/v aqueous ammonia and 30 ml of ethanol. The resulting product was a yellow powder having the following physical properties.

reactant | ethyl 2-[3-(2,4-difluorophenyl)ureido]thiazol-4-ylglyoxylate | 1.8 g | FC1=C(C=CC(=C1)F)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H11F2N3O4S
reactant | rhodanine-3-acetic acid | 0.96 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.5 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-{1-[2-[3-(2,4-Difluorophenyl)ureido]-thiazol-4-yl]-1-ethoxycarbonvlmethylene)rhodanine-3-acetic acid hemihydrate | O.FC1=C(C=CC(=C1)F)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O.FC1=C(C=CC(=C1)F)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=O | InChI=1S/2C19H14F2N4O6S3.H2O/c2*1-2-31-16(29)13(14-15(28)25(6-12(26)27)19(32)34-14)11-7-33-18(23-11)24-17(30)22-10-4-3-8(20)5-9(10)21;/h2*3-5,7H,2,6H2,1H3,(H,26,27)(H2,22,23,24,30);1H2
